*-- pdngen: spice deck generated for chip 'chiplet2' PDN
*-- die chiplet2:  W/H: 0.002/0.003


.subckt chiplet2
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
*-- p/g port #: 12/12
+nd_1_0_3000_666

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_666 nd_1_0_3000_666 0.016324
rd_1_2_0_0_1 nd_1_0_3000_666 nd_1_0_5000_666 0.016324
rd_1_2_0_0_2 nd_1_0_5000_666 nd_1_0_7000_666 0.016324
rd_1_2_0_0_3 nd_1_0_7000_666 nd_1_0_9000_666 0.016324
rd_1_2_0_1_0 nd_1_0_1000_2000 nd_1_0_3000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_2000 nd_1_0_5000_2000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_2000 nd_1_0_7000_2000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_2000 nd_1_0_9000_2000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_3333 nd_1_0_3000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_3000_3333 nd_1_0_5000_3333 0.016324
rd_1_2_0_2_2 nd_1_0_5000_3333 nd_1_0_7000_3333 0.016324
rd_1_2_0_2_3 nd_1_0_7000_3333 nd_1_0_9000_3333 0.016324
rd_1_2_0_3_0 nd_1_0_1000_4666 nd_1_0_3000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_3000_4666 nd_1_0_5000_4666 0.016324
rd_1_2_0_3_2 nd_1_0_5000_4666 nd_1_0_7000_4666 0.016324
rd_1_2_0_3_3 nd_1_0_7000_4666 nd_1_0_9000_4666 0.016324
rd_1_2_0_4_0 nd_1_0_1000_6000 nd_1_0_3000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_6000 nd_1_0_5000_6000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_6000 nd_1_0_7000_6000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_6000 nd_1_0_9000_6000 0.016324
rd_1_2_0_5_0 nd_1_0_1000_7333 nd_1_0_3000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_3000_7333 nd_1_0_5000_7333 0.016324
rd_1_2_0_5_2 nd_1_0_5000_7333 nd_1_0_7000_7333 0.016324
rd_1_2_0_5_3 nd_1_0_7000_7333 nd_1_0_9000_7333 0.016324
rd_1_2_0_6_0 nd_1_0_1000_8666 nd_1_0_3000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_3000_8666 nd_1_0_5000_8666 0.016324
rd_1_2_0_6_2 nd_1_0_5000_8666 nd_1_0_7000_8666 0.016324
rd_1_2_0_6_3 nd_1_0_7000_8666 nd_1_0_9000_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_666 nd_2_0_1000_2000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_2000 nd_2_0_1000_3333 0.016324
rd_2_1_0_0_2 nd_2_0_1000_3333 nd_2_0_1000_4666 0.016324
rd_2_1_0_0_3 nd_2_0_1000_4666 nd_2_0_1000_6000 0.016324
rd_2_1_0_0_4 nd_2_0_1000_6000 nd_2_0_1000_7333 0.016324
rd_2_1_0_0_5 nd_2_0_1000_7333 nd_2_0_1000_8666 0.016324
rd_2_1_0_1_0 nd_2_0_3000_666 nd_2_0_3000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_2000 nd_2_0_3000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_3000_3333 nd_2_0_3000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_3000_4666 nd_2_0_3000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_3000_6000 nd_2_0_3000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_3000_7333 nd_2_0_3000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_5000_666 nd_2_0_5000_2000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_2000 nd_2_0_5000_3333 0.016324
rd_2_1_0_2_2 nd_2_0_5000_3333 nd_2_0_5000_4666 0.016324
rd_2_1_0_2_3 nd_2_0_5000_4666 nd_2_0_5000_6000 0.016324
rd_2_1_0_2_4 nd_2_0_5000_6000 nd_2_0_5000_7333 0.016324
rd_2_1_0_2_5 nd_2_0_5000_7333 nd_2_0_5000_8666 0.016324
rd_2_1_0_3_0 nd_2_0_7000_666 nd_2_0_7000_2000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_2000 nd_2_0_7000_3333 0.016324
rd_2_1_0_3_2 nd_2_0_7000_3333 nd_2_0_7000_4666 0.016324
rd_2_1_0_3_3 nd_2_0_7000_4666 nd_2_0_7000_6000 0.016324
rd_2_1_0_3_4 nd_2_0_7000_6000 nd_2_0_7000_7333 0.016324
rd_2_1_0_3_5 nd_2_0_7000_7333 nd_2_0_7000_8666 0.016324
rd_2_1_0_4_0 nd_2_0_9000_666 nd_2_0_9000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_2000 nd_2_0_9000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_9000_3333 nd_2_0_9000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_9000_4666 nd_2_0_9000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_9000_6000 nd_2_0_9000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_9000_7333 nd_2_0_9000_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_666 nd_2_0_1000_666 0.005
rvd_1_0_0_1 nd_1_0_3000_666 nd_2_0_3000_666 0.005
rvd_1_0_0_2 nd_1_0_5000_666 nd_2_0_5000_666 0.005
rvd_1_0_0_3 nd_1_0_7000_666 nd_2_0_7000_666 0.005
rvd_1_0_0_4 nd_1_0_9000_666 nd_2_0_9000_666 0.005
rvd_1_0_1_0 nd_1_0_1000_2000 nd_2_0_1000_2000 0.005
rvd_1_0_1_1 nd_1_0_3000_2000 nd_2_0_3000_2000 0.005
rvd_1_0_1_2 nd_1_0_5000_2000 nd_2_0_5000_2000 0.005
rvd_1_0_1_3 nd_1_0_7000_2000 nd_2_0_7000_2000 0.005
rvd_1_0_1_4 nd_1_0_9000_2000 nd_2_0_9000_2000 0.005
rvd_1_0_2_0 nd_1_0_1000_3333 nd_2_0_1000_3333 0.005
rvd_1_0_2_1 nd_1_0_3000_3333 nd_2_0_3000_3333 0.005
rvd_1_0_2_2 nd_1_0_5000_3333 nd_2_0_5000_3333 0.005
rvd_1_0_2_3 nd_1_0_7000_3333 nd_2_0_7000_3333 0.005
rvd_1_0_2_4 nd_1_0_9000_3333 nd_2_0_9000_3333 0.005
rvd_1_0_3_0 nd_1_0_1000_4666 nd_2_0_1000_4666 0.005
rvd_1_0_3_1 nd_1_0_3000_4666 nd_2_0_3000_4666 0.005
rvd_1_0_3_2 nd_1_0_5000_4666 nd_2_0_5000_4666 0.005
rvd_1_0_3_3 nd_1_0_7000_4666 nd_2_0_7000_4666 0.005
rvd_1_0_3_4 nd_1_0_9000_4666 nd_2_0_9000_4666 0.005
rvd_1_0_4_0 nd_1_0_1000_6000 nd_2_0_1000_6000 0.005
rvd_1_0_4_1 nd_1_0_3000_6000 nd_2_0_3000_6000 0.005
rvd_1_0_4_2 nd_1_0_5000_6000 nd_2_0_5000_6000 0.005
rvd_1_0_4_3 nd_1_0_7000_6000 nd_2_0_7000_6000 0.005
rvd_1_0_4_4 nd_1_0_9000_6000 nd_2_0_9000_6000 0.005
rvd_1_0_5_0 nd_1_0_1000_7333 nd_2_0_1000_7333 0.005
rvd_1_0_5_1 nd_1_0_3000_7333 nd_2_0_3000_7333 0.005
rvd_1_0_5_2 nd_1_0_5000_7333 nd_2_0_5000_7333 0.005
rvd_1_0_5_3 nd_1_0_7000_7333 nd_2_0_7000_7333 0.005
rvd_1_0_5_4 nd_1_0_9000_7333 nd_2_0_9000_7333 0.005
rvd_1_0_6_0 nd_1_0_1000_8666 nd_2_0_1000_8666 0.005
rvd_1_0_6_1 nd_1_0_3000_8666 nd_2_0_3000_8666 0.005
rvd_1_0_6_2 nd_1_0_5000_8666 nd_2_0_5000_8666 0.005
rvd_1_0_6_3 nd_1_0_7000_8666 nd_2_0_7000_8666 0.005
rvd_1_0_6_4 nd_1_0_9000_8666 nd_2_0_9000_8666 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_1000_666 0 417.093
rdesr_0_0_0_0 nd_1_0_1000_666 nd_1_0_1000_666_ci 417.093
cd_0_0_0_0 nd_1_0_1000_666_ci 0 4.7951e-12
rdload_0_0_0_1 nd_1_0_3000_666 0 52.2321
rdesr_0_0_0_1 nd_1_0_3000_666 nd_1_0_3000_666_ci 52.2321
cd_0_0_0_1 nd_1_0_3000_666_ci 0 3.82906e-11
rdload_0_0_0_2 nd_1_0_5000_666 0 240.614
rdesr_0_0_0_2 nd_1_0_5000_666 nd_1_0_5000_666_ci 240.614
cd_0_0_0_2 nd_1_0_5000_666_ci 0 8.31208e-12
rdload_0_0_0_3 nd_1_0_7000_666 0 1330.98
rdesr_0_0_0_3 nd_1_0_7000_666 nd_1_0_7000_666_ci 1330.98
cd_0_0_0_3 nd_1_0_7000_666_ci 0 1.50265e-12
rdload_0_0_0_4 nd_1_0_9000_666 0 170.457
rdesr_0_0_0_4 nd_1_0_9000_666 nd_1_0_9000_666_ci 170.457
cd_0_0_0_4 nd_1_0_9000_666_ci 0 1.17332e-11
rdload_0_0_0_5 nd_1_0_1000_2000 0 390.1
rdesr_0_0_0_5 nd_1_0_1000_2000 nd_1_0_1000_2000_ci 390.1
cd_0_0_0_5 nd_1_0_1000_2000_ci 0 5.12689e-12
rdload_0_0_0_6 nd_1_0_3000_2000 0 91.0541
rdesr_0_0_0_6 nd_1_0_3000_2000 nd_1_0_3000_2000_ci 91.0541
cd_0_0_0_6 nd_1_0_3000_2000_ci 0 2.1965e-11
rdload_0_0_0_7 nd_1_0_5000_2000 0 129.503
rdesr_0_0_0_7 nd_1_0_5000_2000 nd_1_0_5000_2000_ci 129.503
cd_0_0_0_7 nd_1_0_5000_2000_ci 0 1.54437e-11
rdload_0_0_0_8 nd_1_0_7000_2000 0 896.41
rdesr_0_0_0_8 nd_1_0_7000_2000 nd_1_0_7000_2000_ci 896.41
cd_0_0_0_8 nd_1_0_7000_2000_ci 0 2.23112e-12
rdload_0_0_0_9 nd_1_0_9000_2000 0 105.747
rdesr_0_0_0_9 nd_1_0_9000_2000 nd_1_0_9000_2000_ci 105.747
cd_0_0_0_9 nd_1_0_9000_2000_ci 0 1.89131e-11
rdload_0_0_0_10 nd_1_0_1000_3333 0 162.46
rdesr_0_0_0_10 nd_1_0_1000_3333 nd_1_0_1000_3333_ci 162.46
cd_0_0_0_10 nd_1_0_1000_3333_ci 0 1.23107e-11
rdload_0_0_0_11 nd_1_0_3000_3333 0 68.6472
rdesr_0_0_0_11 nd_1_0_3000_3333 nd_1_0_3000_3333_ci 68.6472
cd_0_0_0_11 nd_1_0_3000_3333_ci 0 2.91345e-11
rdload_0_0_0_12 nd_1_0_5000_3333 0 127.002
rdesr_0_0_0_12 nd_1_0_5000_3333 nd_1_0_5000_3333_ci 127.002
cd_0_0_0_12 nd_1_0_5000_3333_ci 0 1.57478e-11
rdload_0_0_0_13 nd_1_0_7000_3333 0 61.802
rdesr_0_0_0_13 nd_1_0_7000_3333 nd_1_0_7000_3333_ci 61.802
cd_0_0_0_13 nd_1_0_7000_3333_ci 0 3.23614e-11
rdload_0_0_0_14 nd_1_0_9000_3333 0 77.4172
rdesr_0_0_0_14 nd_1_0_9000_3333 nd_1_0_9000_3333_ci 77.4172
cd_0_0_0_14 nd_1_0_9000_3333_ci 0 2.5834e-11
rdload_0_0_0_15 nd_1_0_1000_4666 0 103.21
rdesr_0_0_0_15 nd_1_0_1000_4666 nd_1_0_1000_4666_ci 103.21
cd_0_0_0_15 nd_1_0_1000_4666_ci 0 1.9378e-11
rdload_0_0_0_16 nd_1_0_3000_4666 0 340.13
rdesr_0_0_0_16 nd_1_0_3000_4666 nd_1_0_3000_4666_ci 340.13
cd_0_0_0_16 nd_1_0_3000_4666_ci 0 5.88011e-12
rdload_0_0_0_17 nd_1_0_5000_4666 0 87.3173
rdesr_0_0_0_17 nd_1_0_5000_4666 nd_1_0_5000_4666_ci 87.3173
cd_0_0_0_17 nd_1_0_5000_4666_ci 0 2.2905e-11
rdload_0_0_0_18 nd_1_0_7000_4666 0 124.53
rdesr_0_0_0_18 nd_1_0_7000_4666 nd_1_0_7000_4666_ci 124.53
cd_0_0_0_18 nd_1_0_7000_4666_ci 0 1.60604e-11
rdload_0_0_0_19 nd_1_0_9000_4666 0 60.7897
rdesr_0_0_0_19 nd_1_0_9000_4666 nd_1_0_9000_4666_ci 60.7897
cd_0_0_0_19 nd_1_0_9000_4666_ci 0 3.29003e-11
rdload_0_0_0_20 nd_1_0_1000_6000 0 102.327
rdesr_0_0_0_20 nd_1_0_1000_6000 nd_1_0_1000_6000_ci 102.327
cd_0_0_0_20 nd_1_0_1000_6000_ci 0 1.95451e-11
rdload_0_0_0_21 nd_1_0_3000_6000 0 54.6361
rdesr_0_0_0_21 nd_1_0_3000_6000 nd_1_0_3000_6000_ci 54.6361
cd_0_0_0_21 nd_1_0_3000_6000_ci 0 3.66058e-11
rdload_0_0_0_22 nd_1_0_5000_6000 0 304.948
rdesr_0_0_0_22 nd_1_0_5000_6000 nd_1_0_5000_6000_ci 304.948
cd_0_0_0_22 nd_1_0_5000_6000_ci 0 6.55849e-12
rdload_0_0_0_23 nd_1_0_7000_6000 0 120.995
rdesr_0_0_0_23 nd_1_0_7000_6000 nd_1_0_7000_6000_ci 120.995
cd_0_0_0_23 nd_1_0_7000_6000_ci 0 1.65296e-11
rdload_0_0_0_24 nd_1_0_9000_6000 0 59.6175
rdesr_0_0_0_24 nd_1_0_9000_6000 nd_1_0_9000_6000_ci 59.6175
cd_0_0_0_24 nd_1_0_9000_6000_ci 0 3.35472e-11
rdload_0_0_0_25 nd_1_0_1000_7333 0 597.22
rdesr_0_0_0_25 nd_1_0_1000_7333 nd_1_0_1000_7333_ci 597.22
cd_0_0_0_25 nd_1_0_1000_7333_ci 0 3.34885e-12
rdload_0_0_0_26 nd_1_0_3000_7333 0 100.075
rdesr_0_0_0_26 nd_1_0_3000_7333 nd_1_0_3000_7333_ci 100.075
cd_0_0_0_26 nd_1_0_3000_7333_ci 0 1.9985e-11
rdload_0_0_0_27 nd_1_0_5000_7333 0 66.4176
rdesr_0_0_0_27 nd_1_0_5000_7333 nd_1_0_5000_7333_ci 66.4176
cd_0_0_0_27 nd_1_0_5000_7333_ci 0 3.01125e-11
rdload_0_0_0_28 nd_1_0_7000_7333 0 84.5768
rdesr_0_0_0_28 nd_1_0_7000_7333 nd_1_0_7000_7333_ci 84.5768
cd_0_0_0_28 nd_1_0_7000_7333_ci 0 2.36471e-11
rdload_0_0_0_29 nd_1_0_9000_7333 0 49.4745
rdesr_0_0_0_29 nd_1_0_9000_7333 nd_1_0_9000_7333_ci 49.4745
cd_0_0_0_29 nd_1_0_9000_7333_ci 0 4.04248e-11
rdload_0_0_0_30 nd_1_0_1000_8666 0 59.2879
rdesr_0_0_0_30 nd_1_0_1000_8666 nd_1_0_1000_8666_ci 59.2879
cd_0_0_0_30 nd_1_0_1000_8666_ci 0 3.37337e-11
rdload_0_0_0_31 nd_1_0_3000_8666 0 45.4207
rdesr_0_0_0_31 nd_1_0_3000_8666 nd_1_0_3000_8666_ci 45.4207
cd_0_0_0_31 nd_1_0_3000_8666_ci 0 4.40328e-11
rdload_0_0_0_32 nd_1_0_5000_8666 0 53.8544
rdesr_0_0_0_32 nd_1_0_5000_8666 nd_1_0_5000_8666_ci 53.8544
cd_0_0_0_32 nd_1_0_5000_8666_ci 0 3.71372e-11
rdload_0_0_0_33 nd_1_0_7000_8666 0 65.1126
rdesr_0_0_0_33 nd_1_0_7000_8666 nd_1_0_7000_8666_ci 65.1126
cd_0_0_0_33 nd_1_0_7000_8666_ci 0 3.0716e-11
rdload_0_0_0_34 nd_1_0_9000_8666 0 83.3649
rdesr_0_0_0_34 nd_1_0_9000_8666 nd_1_0_9000_8666_ci 83.3649
cd_0_0_0_34 nd_1_0_9000_8666_ci 0 2.39909e-11

*-- intentional decap
cd_add_cap0 nd_1_0_3000_2000 nd0 'dcap_int_val128'
cd_add_cap1 nd_1_0_7000_2000 nd1 'dcap_int_val129'
cd_add_cap2 nd_1_0_3000_4666 nd2 'dcap_int_val130'
cd_add_cap3 nd_1_0_7000_4666 nd3 'dcap_int_val131'
cd_add_cap4 nd_1_0_3000_7333 nd4 'dcap_int_val132'
cd_add_cap5 nd_1_0_7000_7333 nd5 'dcap_int_val133'
rd_add0 nd0 0 'esr7'
rd_add1 nd1 0 'esr8'
rd_add2 nd2 0 'esr9'
rd_add3 nd3 0 'esr10'
rd_add4 nd4 0 'esr11'
rd_add5 nd5 0 'esr12'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3333  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_6000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_2000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_4666  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3000_7333  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3333  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_6000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_5000_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_2000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_4666  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_7000_7333  0.001

.ends chiplet2
