*-- pdngen: spice deck generated for chip 'chiplet5' PDN
*-- die chiplet5:  W/H: 0.002/0.002


.subckt chiplet5
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_3_0
+nd_pad_port_3_2
*-- p/g port #: 8/8
+nd_1_0_1000_5000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_1000_1000 0 239.267
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 239.267
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 8.35887e-12
rdload_0_0_0_1 nd_1_0_3000_1000 0 196.825
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 196.825
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 1.01613e-11
rdload_0_0_0_2 nd_1_0_5000_1000 0 131.609
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 131.609
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 1.51965e-11
rdload_0_0_0_3 nd_1_0_7000_1000 0 378.539
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 378.539
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 5.28347e-12
rdload_0_0_0_4 nd_1_0_9000_1000 0 283.164
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 283.164
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 7.06305e-12
rdload_0_0_0_5 nd_1_0_1000_3000 0 163.765
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 163.765
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 1.22126e-11
rdload_0_0_0_6 nd_1_0_3000_3000 0 966.211
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 966.211
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 2.06994e-12
rdload_0_0_0_7 nd_1_0_5000_3000 0 508.887
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 508.887
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 3.93015e-12
rdload_0_0_0_8 nd_1_0_7000_3000 0 222.029
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 222.029
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 9.00784e-12
rdload_0_0_0_9 nd_1_0_9000_3000 0 88.7979
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 88.7979
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 2.25231e-11
rdload_0_0_0_10 nd_1_0_1000_5000 0 2299.4
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 2299.4
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 8.69792e-13
rdload_0_0_0_11 nd_1_0_3000_5000 0 339.118
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 339.118
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 5.89766e-12
rdload_0_0_0_12 nd_1_0_5000_5000 0 102.708
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 102.708
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 1.94727e-11
rdload_0_0_0_13 nd_1_0_7000_5000 0 156.572
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 156.572
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 1.27737e-11
rdload_0_0_0_14 nd_1_0_9000_5000 0 728.681
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 728.681
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 2.74468e-12
rdload_0_0_0_15 nd_1_0_1000_7000 0 448.463
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 448.463
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 4.45967e-12
rdload_0_0_0_16 nd_1_0_3000_7000 0 93.3417
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 93.3417
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 2.14267e-11
rdload_0_0_0_17 nd_1_0_5000_7000 0 175.654
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 175.654
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 1.1386e-11
rdload_0_0_0_18 nd_1_0_7000_7000 0 150.636
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 150.636
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 1.3277e-11
rdload_0_0_0_19 nd_1_0_9000_7000 0 302.987
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 302.987
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 6.60094e-12
rdload_0_0_0_20 nd_1_0_1000_9000 0 100.072
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 100.072
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 1.99857e-11
rdload_0_0_0_21 nd_1_0_3000_9000 0 1239.94
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 1239.94
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 1.61299e-12
rdload_0_0_0_22 nd_1_0_5000_9000 0 592.467
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 592.467
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 3.37572e-12
rdload_0_0_0_23 nd_1_0_7000_9000 0 118.64
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 118.64
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 1.68578e-11
rdload_0_0_0_24 nd_1_0_9000_9000 0 192.942
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 192.942
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 1.03658e-11

*-- intentional decap
cd_add_cap0 nd_1_0_3000_3000 nd0 'dcap_int_val152'
cd_add_cap1 nd_1_0_7000_3000 nd1 'dcap_int_val153'
cd_add_cap2 nd_1_0_3000_7000 nd2 'dcap_int_val154'
cd_add_cap3 nd_1_0_7000_7000 nd3 'dcap_int_val155'
rd_add0 nd0 0 'esr31'
rd_add1 nd1 0 'esr32'
rd_add2 nd2 0 'esr33'
rd_add3 nd3 0 'esr34'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_5000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_5000  0.001

.ends chiplet5
